US05847166
An oven dried Schlenk tube equipped with a teflon coated stir bar was charged with NaH (40 mg, 1.50 mmol), toluene (2 mL) and cyclohexanol (94 μL, 0.90 mmol). The mixture was heated to 70° C. for 10 min under an atmosphere of argon. To this was added 1-bromonaphthalene (104 μL, 0.75 mmol), Pd2 (dba)3 (10.3 mg, 0.0113 mmol), (R)-(+)-2,2'-bis(di-p-tolylphosphino)-1,1'-binaphthyl (Tol-BINAP) (18.3 mg, 0.027 mmol), and 2 mL of toluene. The mixture was heated to 70° C. for 20 h at which time water (60 mL) and diethyl ether (60 mL) were added. The aqueous layer was separated and extracted with diethyl ether (60 mL). The organics were combined, washed with brine (60 mL) and dried over anhydrous MgSO4. The drying agent was removed by filtration and the mother liquor concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (50:1 hexanes:ethyl acetate) to afford 1-naphthyl cyclohexyl ether (101 mg, 60% yield) as a colorless oil.

reactant | NaH | 1.50 mmol, 40 mg | [H-].[Na+]
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclohexanol | 0.90 mmol, 94 μL | C1(CCCCC1)O | C6H12O
reactant | 1-bromonaphthalene | 0.75 mmol, 104 μL | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 (dba)3 | 0.0113 mmol, 10.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (R)-(+)-2,2'-bis(di-p-tolylphosphino)-1,1'-binaphthyl | 0.027 mmol, 18.3 mg | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | water | 60 mL | O | H2O
product | 1-naphthyl cyclohexyl ether | 101 mg, 60% yield | C1(CCCCC1)OC1=CC=CC2=CC=CC=C12 | C16H18O
